US06384080B1
A mixture of 2-[(3S,5S)-1-(tert-butoxycarbonyl)-5-(methoxycarbonyl)pyrrolidin-3-ylamino]-N-(3,4-dimethoxylbenzyl)-5-nitrobenzamide (143 mg) and 30% methanol solution of methylamine (4 mL) was stirred for one day at ambient temperature. After evaporation of the solvent, the residue was partitioned between ethyl acetate and water. The organic layer was separated, washed with brine and dried over magnesium sulfate. The residue was subjected to a silica gel column chromatography eluting with ethyl acetate to give 2-[(3S,5S)-1-(tert-butoxycarbonyl)-5-(methylcarbamoyl)pyrrolidin-3-ylamino]-N-(3,4-dimethoxylbenzyl)-5-nitrobenzamide (149 mg).

reactant | 2-[(3S,5S)-1-(tert-butoxycarbonyl)-5-(methoxycarbonyl)pyrrolidin-3-ylamino]-N-(3,4-dimethoxylbenzyl)-5-nitrobenzamide | 143 mg | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H]1C(=O)OC)NC1=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C=C(C=C1)[N+](=O)[O-] | C27H34N4O9
reactant | methylamine | 4 mL | CN | CH5N
solvent | methanol | CO | CH4O
product | 2-[(3S,5S)-1-(tert-butoxycarbonyl)-5-(methylcarbamoyl)pyrrolidin-3-ylamino]-N-(3,4-dimethoxylbenzyl)-5-nitrobenzamide | 149 mg | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H]1C(NC)=O)NC1=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C=C(C=C1)[N+](=O)[O-] | C27H35N5O8
